US05391541
By the method of Example 1, Step G, 19.67 grams (0.080 mole) of 2,3-dichloro-5-nitrophenylmethyl isocyanate, 2.102 grams (0.088 mole) of sodium hydride, and 14.59 grams (0.080 mole) of ethyl 3-amino-4,4,4-trifluoro-2-butenoate were reacted in 80 mL of N,N-dimethylformamide, yielding 17.14 grams of 3-(2,3-dichloro-5-nitrophenylmethyl)-6-trifluoromethyluracil as a brown solid. The NMR spectrum was consistent with the proposed structure. This reaction was repeated.

reactant | 2,3-dichloro-5-nitrophenylmethyl isocyanate | 0.080 mole, 19.67 grams | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])CN=C=O | C8H4Cl2N2O3
reactant | sodium hydride | 0.088 mole, 2.102 grams | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluoro-2-butenoate | 0.080 mole, 14.59 grams | NC(=CC(=O)OCC)C(F)(F)F | C6H8F3NO2
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 3-(2,3-dichloro-5-nitrophenylmethyl)-6-trifluoromethyluracil | 17.14 grams | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])CN1C(NC(=CC1=O)C(F)(F)F)=O | C12H6Cl2F3N3O4
